* C:\aeonWorkingDirectory\research\publications\World Wireless\Manhaba review\circuit diagram.sxsch
*#SIMETRIX
V1 D1_N V1_N 12
R1 D1_N D1_N 50k
R2 D1_N D1_N 50k
D1 D1_P D1_N D1N4148
D2 V1_N D1_P D1N4148
D3 D3_P D1_N D1N4148
D4 V1_N D3_P D1N4148
Q1 Q2_C D1_N V1_N 0 Q2N2222
Q2 Q2_C D1_N V1_N 0 Q2N2222
X$TX1 D1_N Q2_C TX1_20 TX1_21 TX1_30 D1_N Nonind_TxTX1 pinnames: 10 11 20 21 30 31 
.subckt Nonind_TxTX1 10 11 20 21 30 31 
F1 0 n1 E1 1
E1 10 11 n1 0 1
F2 0 n1 E2 2
E2 20 21 n1 0 2
F3 0 n1 E3 1
E3 30 31 n1 0 1
.ends 

